US08877782B2
6-[3-(4-Chloro-phenyl)-isoxazol-4-ylmethoxy]-N-(2-hydroxy-1,1-dimethyl-ethyl)-nicotinamide
As described for example 346b, 6-[3-(4-chloro-phenyl)-isoxazol-4-ylmethoxy]-nicotinic acid (200 mg, 0.6 mmol) was converted, using 2-amino-2-methyl-1-propanol instead of ethanolamine, to the title compound (110 mg, 45%) which was obtained as a white solid. MS: m/e=402.2 [M+H]+.

reactant | 6-[3-(4-chloro-phenyl)-isoxazol-4-ylmethoxy]-nicotinic acid | 0.6 mmol, 200 mg | ClC1=CC=C(C=C1)C1=NOC=C1COC1=NC=C(C(=O)O)C=C1 | C16H11ClN2O4
reactant | 2-amino-2-methyl-1-propanol | NC(CO)(C)C | C4H11NO
product | 6-[3-(4-Chloro-phenyl)-isoxazol-4-ylmethoxy]-N-(2-hydroxy-1,1-dimethyl-ethyl)-nicotinamide | 110 mg, 45% | ClC1=CC=C(C=C1)C1=NOC=C1COC1=NC=C(C(=O)NC(CO)(C)C)C=C1 | C20H20ClN3O4
